US04001238
Potassium 5-methylthio-1,3,4-oxadiazole-2-carboxylate
A solution of ethyl 5-methylthio-1,3,4-oxadiazole-2-carboxylate (4.31 g., 0.023 mole) in absolute ethanol (50 ml.) was treated dropwise with 2.87 g. (0.023 mole) of 45 wt.% potassium hydroxide solution. The resultant white precipitate was isolated by filtration, washed with ethanol and dried to yield 3.92 g. (86%) of the title compound; M.P. 176°-177° C. with decomposition after recrystallization from ethanol.

reactant | ethyl 5-methylthio-1,3,4-oxadiazole-2-carboxylate | 0.023 mole, 4.31 g | CSC1=NN=C(O1)C(=O)OCC | C6H8N2O3S
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Potassium 5-methylthio-1,3,4-oxadiazole-2-carboxylate | 86% | CSC1=NN=C(O1)C(=O)[O-].[K+] | InChI=1S/C4H4N2O3S.K/c1-10-4-6-5-2(9-4)3(7)8;/h1H3,(H,7,8);/q;+1/p-1
